US05798353
0.47 ml of pyridine is dissolved in 10 ml of dichloromethane, cooled to -5° C., and 0.68 ml of thionyl chloride is added dropwise, the mixture is stirred for 20 minutes at the same temperature and then 208 mg of indole-2-carboxylic acid are added portionwise with stirring for 30 minutes. 400 mg of 3-amino-1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one are added portionwise and the reaction mixture is then allowed to return to room temperature and is stirred for 16 hours. Water is added to the reaction mixture and the precipitate formed is filtered off and dried to give white crystals of N-[2,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-1H-2-indolecarboxamide melting with decomposition at 310° C.; Yield=79%.

reactant | pyridine | 0.47 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.68 ml | S(=O)(Cl)Cl | Cl2OS
reactant | indole-2-carboxylic acid | 208 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 3-amino-1,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-1,4-benzodiazepin-2-one | 400 mg | NC1C(N(C2=C(C(=N1)C1=C(C=C(C=C1OC)C)OC)C=CC=C2)C)=O | C19H21N3O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | N-[2,3-dihydro-5-(2,6-dimethoxy-4-methylphenyl)-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-1H-2-indolecarboxamide | Yield=79% | COC1=C(C(=CC(=C1)C)OC)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)C=2NC1=CC=CC=C1C2 | C28H26N4O4
